US07763605B2
(S)-Biphenyl-2-carboxylic acid [4-(4-benzyl-3-hydroxymethyl-2,3,4,5-tetrahydro-benzo[e][1,4]diazepine-1-carbonyl)-3-chloro-phenyl]-amide, Cpd 1
To a solution of (S)-biphenyl-2-carboxylic acid [3-chloro-4-(3-hydroxymethyl-2,3,4,5-tetrahydrobenzo[e][1,4]diazepine-1-carbonyl)-phenyl]-amide (1.02 g; 1.95 mmol) dissolved in ClCH2CH2Cl (11 mL) was added benzaldehyde (2.92 mmol) followed by sodium triacetoxyborohydride (0.824 g; 3.89 mmol) in one-portion and the reaction was stirred for 18 h at rt. The reaction was diluted with CH2Cl2, washed with H2O, dried over Na2SO4, filtered, and the solvent removed under reduced pressure to afford a crude residue which was purified by flash chromatography (SiO2) eluting with EtOAc-MeOH gradient to afford 0.949 g (81%) of the title compound as a white solid. [α]23D: −75° (c 1.4, MeOH); 1H NMR (300 MHz, CDCl3): δ 7.81-7.83 (d, 1H), 7.28-7.56 (m, 13H), 6.71-7.20 (m, 7H), 4.77-4.82 (m, 1H), 4.40-4.46 (m, 1H), 3.85-4.10 (m, 2H), 3.52-3.69 (m, 3H), 3.31-3.36 (m, 1H), 3.14 (s, 1H); LC/MS m/z 602 (M+1). Calcd for C33H32ClN3O3.0.88% H2O; C, 72.08; H, 5.31; N, 6.80; Cl, 6.91.

reactant | (S)-biphenyl-2-carboxylic acid [3-chloro-4-(3-hydroxymethyl-2,3,4,5-tetrahydrobenzo[e][1,4]diazepine-1-carbonyl)-phenyl]-amide | 1.95 mmol, 1.02 g | ClC=1C=C(C=CC1C(=O)N1C[C@H](NCC2=C1C=CC=C2)CO)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2 | C30H26ClN3O3
reactant | benzaldehyde | 2.92 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 3.89 mmol, 0.824 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | ClCH2CH2Cl | 11 mL | C(CCl)Cl | C2H4Cl2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-Biphenyl-2-carboxylic acid [4-(4-benzyl-3-hydroxymethyl-2,3,4,5-tetrahydro-benzo[e][1,4]diazepine-1-carbonyl)-3-chloro-phenyl]-amide | 0.949 g, 81% | C(C1=CC=CC=C1)N1[C@@H](CN(C2=C(C1)C=CC=C2)C(=O)C2=C(C=C(C=C2)NC(=O)C=2C(=CC=CC2)C2=CC=CC=C2)Cl)CO | C37H32ClN3O3
